US09315467B2
Part B. A solution of ethyl 3-(6-bromo-pyridin-2-yl)-benzoate (154 mg, 0.5 mmol) and 4-isopropylbenzeneboronic acid (83 mg, 0.5 mmol) in acetonitrile is treated with a solution of sodium carbonate (160 mg) in water (1 mL). The mixture is degassed twice, and a catalytic amount of tetrakis(triphenylphosphine)palladium is added under the protection of nitrogen. The reaction mixture is stirred at 80° C. until the consumption of starting material is observed by TLC. The mixture is cooled, filtered and evaporated, and the residual material is partitioned between water and ethyl acetate. The organic phase is washed with brine, dried over sodium sulfate, filtered and evaporated. The residue is purified by column chromatography to afford ethyl 3-[6-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate (120 mg, 69%).

reactant | ethyl 3-(6-bromo-pyridin-2-yl)-benzoate | 0.5 mmol, 154 mg | BrC1=CC=CC(=N1)C=1C=C(C(=O)OCC)C=CC1 | C14H12BrNO2
reactant | 4-isopropylbenzeneboronic acid | 0.5 mmol, 83 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | sodium carbonate | 160 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | ethyl 3-[6-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate | 120 mg, 69% | C(C)(C)C1=CC=C(C=C1)C1=CC=CC(=N1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
